US06426067B1
Solid sodium 4-sulfophenylisothiocyanate monohydrate (2.55 g; 10 mmol) was added to a solution of poly-L-lysine (15-30K) (Sigma Chemical Company) (1.0 g) in a mixture of water (20 ml) and N,N-dimethyl-N-allylamine buffer (pH 9.5; 15 ml). The resulting mixture was heated under nitrogen at 53° C. for 3 hours, when a ninhydrin test was negative. The cooled mixture was filtered and the filtrate concentrated to give a grey solid residue. The solid residue was redissolved in water and passed through a column of Amberlite IR 120(Na) and then concentrated. The crude product was purified by gel filtration (Sephadex LH20; water) and freeze dried to give sodium 4-sulfophenylthiourea terminated poly-L-lysine BRI2995 as a white fluffy solid (1.25 g).

reactant | sodium 4-sulfophenylisothiocyanate monohydrate | 10 mmol, 2.55 g | O.S(=O)(=O)(O)C1=CC=C(C=C1)N=C=S.[Na]
reactant | ninhydrin | C1=CC=C2C(=C1)C(=O)C(C2=O)(O)O | C9H6O4
reactant | N,N-dimethyl-N-allylamine | 15 ml, pH 9.5 | CN(CC=C)C | C5H11N
solvent | water | 20 ml | O | H2O
product | sodium 4-sulfophenylthiourea | S(=O)(=O)(O)C1=CC=C(C=C1)NC(=S)N.[Na] | InChI=1S/C7H8N2O3S2.Na/c8-7(13)9-5-1-3-6(4-2-5)14(10,11)12;/h1-4H,(H3,8,9,13)(H,10,11,12);
